US08445684B2
To a solution of 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(R)-pyrrolidinyl]methoxy]pyridine (346 mg, 0.97 mmol) and 4-[2-(4-chlorobenzyloxy)ethyl]piperidine (270 mg, 1.06 mmol, 1.1 equiv.) in anhydrous toluene (6 mL) were added successively sodium tert-butoxide (139 mg, 1.45 mmol, 1.5 equiv.), tris(dibenzylideneacetone)dipalladium(0) (17.7 mg, 19 μmol, 0.02 equiv.), and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos; 33.6 mg, 58 μmol, 0.06 equiv.). The mixture was degassed and purged with Ar (3 cycles), then warmed to 98-100° C. for 4 h. After cooling to room temperature, the mixture was diluted with EtOAc, and the solution was washed with brine, dried over Na2SO4, and evaporated. The residue was purified by CC on SiO2 with CH2Cl2/EtOAc 4:1, then 1:1. After evaporation, 3-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-[4-[2-(4-chlorobenzyloxy)ethyl]-1-piperidinyl]pyridine (437 mg, 85%) was obtained as a pale yellow oil.

reactant | 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(R)-pyrrolidinyl]methoxy]pyridine | 0.97 mmol, 346 mg | BrC=1C=NC=C(C1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C15H21BrN2O3
reactant | 4-[2-(4-chlorobenzyloxy)ethyl]piperidine | 1.06 mmol, 270 mg, 1.1 equiv. | ClC1=CC=C(COCCC2CCNCC2)C=C1 | C14H20ClNO
reactant | sodium tert-butoxide | 1.45 mmol, 139 mg, 1.5 equiv. | CC(C)([O-])C.[Na+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 19 μmol, 17.7 mg, 0.02 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 58 μmol, 33.6 mg, 0.06 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 3-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-[4-[2-(4-chlorobenzyloxy)ethyl]-1-piperidinyl]pyridine | 437 mg, 85% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC=1C=NC=C(C1)N1CCC(CC1)CCOCC1=CC=C(C=C1)Cl | C29H40ClN3O4
